US04873264
A. Preparation of 4-(2,4-dimethylphenoxy)-3,6-dimethyl-5-chloroaniline
To a solution of 4-(2,4-dimethylphenoxy)-3,6-dimethyl-5-chloronitrobenzene (25 g, 81.8 mmol) in toluene (250 ml) was added 5% platinum on carbon (1.0 g). The resulting mixture was subjected to hydrogenation at 20 psi. After 4.5 hours, the reaction mixture was filtered through celite and concentrated to given an oil (24.5 g). It turned to a pinkish solid after high vacuum drying; mp 86°~88° C.

reactant | 4-(2,4-dimethylphenoxy)-3,6-dimethyl-5-chloronitrobenzene | 81.8 mmol, 25 g | CC1=C(OC2=C(C=C(C(=C2Cl)C)[N+](=O)[O-])C)C=CC(=C1)C | C16H16ClNO3
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
catalyst | platinum on carbon | 1.0 g | [Pt] | Pt
product | 4-(2,4-dimethylphenoxy)-3,6-dimethyl-5-chloroaniline | CC1=C(OC2=C(C=C(N)C(=C2Cl)C)C)C=CC(=C1)C | C16H18ClNO
